US04465844
3-[Acetylamino-di(ethoxycarbonyl)methyl]-2,5-dioxopyrrolidine
In 100 ml of ethanol was dissolved 3.4 g of sodium, and following addition of 32 g of diethyl acetylaminomalonate, the mixture was refluxed for 2 hours. To the reaction mixture was added dropwise a solution of 16.5 g of ethyl 2-bromosuccinamate in ethanol (40 ml) and under stirring the mixture was refluxed for 30 minutes. This reaction mixture was concentrated under reduced pressure, followed by addition of ethyl acetate and water, and stirred. The aqueous layer was separated and the ethyl acetate layer was extracted with water. These aqueous extracts were combined, washed with ethyl acetate, adjusted to pH 1.5 with conc. hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. To the residue was added ethyl ether and the mixture was allowed to stand in a refrigerator, whereupon crystals separated out. Yield 7.3 g.

reactant | sodium | 3.4 g | [Na] | Na
reactant | diethyl acetylaminomalonate | 32 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | ethyl 2-bromosuccinamate | 16.5 g | BrC(C(=O)OCC)CC(=O)N | C6H10BrNO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-[Acetylamino-di(ethoxycarbonyl)methyl]-2,5-dioxopyrrolidine | C(C)(=O)NC(C1C(NC(C1)=O)=O)(C(=O)OCC)C(=O)OCC | C13H18N2O7
